US04603012
A solution of 2,2,5,5-Tetramethyl-1-cyclopentylmethyl bromide in ether is added slowly to magnesium turnings until the Grignard reagent begins to form. The remainder of the alkyl bromide is then added and the mixture is stirred until all the magnesium dissolves. At 0° C. a solution of N-Boc-1-amino-1-cyclopropanecarboxaldehyde is then added and the mixture is stirred overnight. The reaction is quenched with 1M HCl, extracted with ether and the extracts are evaporated. The residue is dissolved in dioxane and 2M H2SO4 is added. The mixture is heated until the alcohol is dehydrated, as shown by thin layer chromatography. Water is added and the mixture is extracted with ether. The organic layer is dried over MgSO4 and evaporated to give N-Boc-1-amino-1-(2,2,5,5-tetramethyl-1-cyclopentyl)ethenylcyclopropane.

reactant | 2,2,5,5-Tetramethyl-1-cyclopentylmethyl bromide | CC1(C(C(CC1)(C)C)CBr)C | C10H19Br
reactant | magnesium | [Mg] | Mg
reactant | N-Boc-1-amino-1-cyclopropanecarboxaldehyde | C(=O)(OC(C)(C)C)NC1(CC1)C=O | C9H15NO3
reactant | ether | CCOCC | C4H10O
product | N-Boc-1-amino-1-(2,2,5,5-tetramethyl-1-cyclopentyl)ethenylcyclopropane | C(=O)(OC(C)(C)C)NC1(CC1)C(=C)C1C(CCC1(C)C)(C)C | C19H33NO2
